Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
adhesive tape
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ year old female with DLBCL C3D20 of 
R-CHOP presenting with a pathologic fracture of left tibia and 
fibula.  She had been at ___ and 
was recently transferred to a skilled nursing facility.  While 
walking, she heard a "snap" in her left ankle and had severe 
pain.  X-rays demonstrated an acute fracture of the distal tibia 
and resoprtion of the distal fibula.  She was otherwise in her 
usual state of health and had no other complaints.
.
She was seen by orthopedics in the ED and put in a cast. She was 
admitted for clearance for surgery and further management of her 
lymphoma. She was given morphine sulfate 4 mg with effect.  
Currently, she is resting comfortably. She reports that when she 
lays still, she has no pain and no other complaints. ROS is 
negative. She is able to move around in the bed comfortably, now 
that her leg is stabilized in a cast.

 
Past Medical History:
Past medical history
DLBCL
Glaucoma
Diabetes mellitus
Chronic renal failure
Hyperlipidemia
Hypertension
Osteoarthritis
s/p TKR
Anemia
.
Oncologic History (per last oncology notes)
- Mrs. ___ is an ___ year-old ___ female with 
a
history of DM2, HL, HTN, and OA who was in her USOH until ___
when she developed worsening edema in her legs, L>R. She did not
have a rash at that time. She tried TEDS which did not help and
was evaluated for a DVT but that was negative. 
- About 2 weeks prior to her admission, she went to her PCP
because of ___ new rash in the left leg. 
- Dermatology performed a biopsy on ___ which revealed
pan-dermal and subcutaneous malignant infiltrate most consistent
with diffuse B cell lymphoma, large cell type.
- She then began to have falls at home and was found down by her
___ on the day of admission (___). There was no documented
LOC, loss of sphincter control, or witnessed seizure activity.
 Her family also described periods of increased confusion and
making statements that don't make any sense since her diagnosis.
- In the ER, she underwent a trauma evaluation after her fall 
and
she was found to have a 2 cm L frontal mass with surrounding
vasogenic edema.  C-spine, CXR and hip films were unremarkable. 
- MRI head on ___ confirmed an enhancing mass lesion in the
subcortical white matter of the left frontal lobe, approximately
2 cm, associated with vasogenic edema and effacement of the 
sulci
- MRI spine ___ showed multilevel degenerative changes
throughout the cervical,
thoracic, and lumbar spine as well as a focal lesion within the
right psoas at the level of L3/L4, possibly consistent with a
hematoma, calcification, or a metastasis 
- ECHO ___: Mild aortic valve stenosis. Mild symmetric left
ventricular hypertrophy with preserved global and regional
biventricular systolic function (LVEF >55%). Pulmonary artery
systolic hypertension. 
- PET scan ___ revealed a 2-cm intracranial lymphoma
metastasis in the left frontal lobe, moderate intramuscular
lymphoma disease in the left biceps and right psoas, and
extensive lymphoma in the left calf with mild regional spread to
the left thigh and left inguinal nodes.
- brain biopsy ___ revealed B-cell lymphoma, favoring large
B-cell subtype
- bone marrow biopsy on ___ was normal, no involvement by
lymphoma
- received Cyberknife to the CNS lesion on ___ (1500 cGy x 1
fraction)
- transferred to ___ service and began CHOP on ___
(vincristine capped at 2)
- she received Rituxan 375mg/m2 on ___
- she received C2D1 of R-CHOP on ___
- C3D1 R-CHOP ___
- PET/CT scan after 3 cycles with marked response to therapy

 
Social History:
___
Family History:
- Brother with brain cancer diagnosed in his ___  
- No family history of premature CAD, SCD, stroke.  

 
Physical Exam:
98.7 130/80 67 16 99% RA
Gen: well appearing, hearing aid in place, no distress
HEENT: EOMI, OP Clear
Car: Regular, no murmur
Resp: Clear bilaterally
Abd: soft, not tender, no HSM
Ext: Left leg splinted below knee. Dry/healing ulcer on left 
hallus. Right without erythema or edema
Skin: no rash

 
Pertinent Results:
Admission labs:
===============
___ 01:35AM BLOOD WBC-5.3# RBC-3.52* Hgb-11.2* Hct-32.8* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-20.7* Plt ___
___ 01:35AM BLOOD Neuts-80.5* Lymphs-10.5* Monos-7.6 
Eos-0.4 Baso-1.0
___ 01:35AM BLOOD ___ PTT-25.0 ___
___ 01:35AM BLOOD Glucose-151* UreaN-12 Creat-1.0 Na-137 
K-4.0 Cl-102 HCO3-26 AnGap-13
___ 01:35AM BLOOD ALT-15 AST-14 AlkPhos-82 TotBili-0.2
___ 06:25AM BLOOD Calcium-9.4 Phos-3.5 Mg-1.8
___ 01:48AM BLOOD Lactate-1.7
.
Discharge labs:
===============

Imaging:
========
L leg/toe x-ray: 
1. Aggressive lytic lesion in distal fibula, with cortical 
destruction and resultant pathologic fracture. 
2. Two parallel transverse fractures in the distal tibia, as 
described. 
3. Limited assessment of great toe due to osteopenia. No obvious 
fracture or focal lesion, but, if suspicion remains high, then 
further assessment with MRI would be recommended. 
.
TTE: The left atrium and right atrium are normal in cavity size. 
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%). 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened. 
There is no valvular aortic stenosis. The increased transaortic 
velocity is likely related to high cardiac output. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is mild pulmonary artery systolic hypertension. 
There is a very small pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Trace aortic and mild mitral regurgitation and mild pulmonary 
artery systolic hypertension.
Compared with the prior study (images reviewed) of ___, 
findings are similar.  
 
Brief Hospital Course:
___ year old female with DLBCL of the left leg, C3D20 R-CHOP and 
s/p Cyberknife to brain lesion, presenting with pathologic 
fracture of the left leg.
.
# Tibial/fibular fracture: pathologic fractures with distal 
fibular resorption, also seen on last PET scan. Fractures likely 
in setting of lymphoma which has been chemoresponsive and 
decreasing in size. Orthopedics evaluated the patient and 
determined that she was not a surgical candidate at this time 
given poor bone and tissue integrity. She was fitted with a 
bivalve cast which can be removed for cleaning. She does not 
need radiation therapy to her leg at this time given the 
chemoresponsiveness of her lymphoma. She will be discharged to 
rehab and should continue on fondaparinux for DVT prophylaxis. 
She is able to work with ___ and do touch-down with her left leg 
and partial weight bearing as tolerated. She has a follow up 
appointment in ___ clinic in 2 weeks. Pain control is with 
morphine as needed. Of note, patient has had a chronic lesion 
(5mm eschar) on L first toe which was evaluated by podiatry.
.
# DLBCL: chemorseponsive. She is s/p 3 cycles of RCHOP and 
started her ___ cycle of RCHOP on ___. She will need to 
start neupogen 2 days after chemo at rehab. Given IV 
dexamethasone during chemo, blood sugars should be monitored 
carefully. She will follow up with Dr. ___ in 1 week. 
Continued on acyclovir and bactrim for prophylaxis. TTE with no 
evidence of cardiomyopathy from anthracycline. 
.
# DM: continue outpatient DM management with careful monitoring 
of blood sugars while on dexamethasone with adjustment in 
sliding scale.
.
# Pain: morphine prn with bowel regimen of senna, colace, 
miralax, and lactulose prn.
 
Medications on Admission:
Sliding scale insulin
Lantus 12 unit qhs
Folate 1 mg daily
Arixtra 2.5 daily
Keppra 250 mg bid
MVI daily
Miralax
Senna qhs
acyclovir 400 mg tid
allopurinol ___ mg daily
Vitamin C 500 mg daily
Clotrimazole every 6 hours
Vitamin B12 1000 mg daily
Colace 200 mg daily qhs
Tylenol ___ mg po q4h prn fever/pain
Lactulose daily prn constipation
Bactrim SS daily
Prilosec 40 mg daily

 
Discharge Medications:
1. filgrastim 300 mcg/0.5 mL Syringe Sig: One (1)  Injection 
once a day for 7 days: start in 2 days (on ___.  
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. insulin
Lantus 12 unit qhs

4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
6. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. clotrimazole 10 mg Troche Sig: One (1) Troche Mucous membrane 
QID (4 times a day).  
9. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO every 
___ hours as needed for constipation.  
10. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO HS 
(at bedtime).  
12. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain, fever.  
13. cyanocobalamin (vitamin B-12) 500 mcg Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
14. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  

16. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily).  
17. fondaparinux 2.5 mg/0.5 mL Syringe Sig: One (1)  
Subcutaneous DAILY (Daily).  
18. levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
19. oxycodone 5 mg Capsule Sig: One (1) Capsule PO every ___ 
hours.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Tibial/fibular pathologic fracture
  
Secondary:
DLBCL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: non-ambulatory, out of bed and touch down 
weight bearing only.

 
Discharge Instructions:
Dear Ms. ___,
  
You were admitted to ___ with leg pain and found to have 
fractures in your lower leg. These are likely due to your 
lymphoma shrinking from chemotherapy. The orthopedics team 
evaluated you and determined that surgical repair was too risky 
in your case and fitted you with a cast to wear on your leg. 
  
You continued on your chemotherapy regimen and based on your 
imaging, it appears that your lymphoma is responding well to the 
chemo.
  
We have made the following changes to your medications:
- CONTINUE fondaparinux to prevent clots in your leg
- CONTINUE dexamethasone as part of your chemo regimen
- START neupogen 480 mg IV in 2 days and continue for ___ days

 
Followup Instructions:
___